US07279497B2
Preparation of (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(2,4-dimethylphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran
The title compound (231 mg, 33%) was prepared using (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran (400 mg, 1.42 mmol) and 2,4-dimethylphenyl-1H-imidazol-2-ylmethylamine (287 mg, 1.42 mmol), according to the same procedure used for the preparation of example 1 above.

reactant | (2S,3S,4S)-3,4-dihydro-2-dimethoxymethyl-3,4-epoxy-2-methyl-6-nitro-2H-1-benzopyran | 1.42 mmol, 400 mg | COC([C@]1(OC2=C([C@H]3[C@@H]1O3)C=C(C=C2)[N+](=O)[O-])C)OC | C13H15NO6
reactant | 2,4-dimethylphenyl-1H-imidazol-2-ylmethylamine | 1.42 mmol, 287 mg | CC1=C(C=CC(=C1)C)NCC=1NC=CN1 | C12H15N3
product | (2S,3S,4R)-3,4-dihydro-2-dimethoxymethyl-3-hydroxy-2-methyl-6-nitro-4-[N-(2,4-dimethylphenyl)-N-(1H-imidazol-2-ylmethyl)amino]-2H-1-benzopyran | 231 mg, 33% | COC([C@]1(OC2=C([C@H]([C@@H]1O)N(CC=1NC=CN1)C1=C(C=C(C=C1)C)C)C=C(C=C2)[N+](=O)[O-])C)OC | C25H30N4O6
